US06593326B1
2,4-Dichloro-5-(N-isopropylcarbamoyl)pyrimidine
A solution of isopropylamine (1.28 ml, 15.0 mmol) and triethylamine (2.10 ml, 15.1 mmol) in dry THF (5 ml) was added dropwise over 30 minutes to a solution of 2,4-dichloropyrimidine-5-carbonyl chloride (obtained as described in J. Med. Chem., 1972, 15, 200; 3.18 g, 15.0 mmol) in dry THF (8 ml) at −10° C. The solution was stirred 0° C. for 2 hours, filtered and evaporated to dryness to yield the product (0.93 g), which was used without further purification.

reactant | isopropylamine | 15.0 mmol, 1.28 ml | C(C)(C)N | C3H9N
reactant | triethylamine | 15.1 mmol, 2.10 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloropyrimidine-5-carbonyl chloride | 15.0 mmol, 3.18 g | ClC1=NC=C(C(=N1)Cl)C(=O)Cl | C5HCl3N2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 2,4-Dichloro-5-(N-isopropylcarbamoyl)pyrimidine | 0.93 g | ClC1=NC=C(C(=N1)Cl)C(NC(C)C)=O | C8H9Cl2N3O
